US06492403B1
To a solution of 2.5 g (15.23 mmol) of 3,4-methylenedioxy acetophenone in 200 mL of anhydrous methanol was added 61 mmol (20 g) of poly(4-vinylpyridinium tribromide), Aldrich Chemical Co., and allowed to reflux for 2.5 h. The solution was filtered and concentrated. 1-(2H-benzo[3,4-d]1,3-dioxolen-5-yl)-2-bromoethan-1-one (1.4 g, 38% yield) was obtained methylene chloride/hexanes as off-white crystals. 1H-NMR (DMSO-d6; 300 MHz) δ 8.2 (s, 1H), 8.07 (s, 1H), 7.61-7.64 (m,2H), 7.01-7.04 (dd, J=1.2 Hz and 7.1 Hz, 1H), 6.09 (s, 2H), 3.86 (s, 3H), 2.75 (s, 3H).

reactant | 3,4-methylenedioxy acetophenone | 15.23 mmol, 2.5 g | CC(=O)C1=CC2=C(C=C1)OCO2 | C9H8O3
reactant | poly(4-vinylpyridinium tribromide) | 61 mmol, 20 g | C=CC1=CC=[NH+]C=C1.[Br-].[Br-].[Br-]
solvent | methanol | 200 mL | CO | CH4O
product | 1-(2H-benzo[3,4-d]1,3-dioxolen-5-yl)-2-bromoethan-1-one | 1.4 g, 38% yield | C1OC2=C(O1)C=C(C=C2)C(=O)CBr | C9H7BrO3
